US05481001
a) N-Pentyl-caproamide
275 g of caproyl chloride are added dropwise within 30 minutes to a solution of 500 ml of n-pentylamine in 1.41 of methylene chloride while cooling with ice and stirring. After standing at room temperature for 4 hours the reaction solution is washed in succession with 11 of 0.1N HCl, 11 of 0.1N NaOH and 1.51 of NaCl solution. The organic phase is concentrated on a rotary evaporator and dried in a high vacuum and gives 370 g of a crystalline mass (98% of theory). M.p. 37° C.

reactant | caproyl chloride | 275 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | n-pentylamine | 500 ml | C(CCCC)N | C5H13N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Pentyl-caproamide | C(CCCC)NC(CCCCC)=O | C11H23NO
